US09290490B2
To a vial were added ethyl trans-4-[2-(5-bromo-1,3-thiazol-2-yl)oxiran-2-yl]-cyclohexanecarboxylate (101 mg, 0.28 mmol) and tetra-N-butylammonium dihydrogentrifluoride (422 mg, 1.34 mmol). The mixture was heated at 120° C. for 3 h 45 min. The mixture was diluted with water, and extracted with EtOAc. The organic phase was washed with water, brine, dried over sodium sulfate and concentrated to afford racemic ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-2-fluoro-1-hydroxyethyl]cyclohexane-carboxylate which was used without further purification. MS ESI calc'd. for C14H19BrFNO3S [M+H]+ 380, 382. found 380, 382.

reactant | ethyl trans-4-[2-(5-bromo-1,3-thiazol-2-yl)oxiran-2-yl]-cyclohexanecarboxylate | 0.28 mmol, 101 mg | BrC1=CN=C(S1)C1(OC1)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H18BrNO3S
reactant | tetra-N-butylammonium dihydrogentrifluoride | 1.34 mmol, 422 mg | CCCC[N+](CCCC)(CCCC)CCCC.F.F.[F-]
solvent | water | O | H2O
product | racemic ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-2-fluoro-1-hydroxyethyl]cyclohexane-carboxylate | BrC1=CN=C(S1)C(CF)(O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H19BrFNO3S
